US08049016B2
Synthesis of 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-N-((5-fluoropyridin-3-yl)methyl)-4-methylthiazole-5-carboxamide
To a solution of 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid (1.00 g, 3.55 mmol), 2-(7-aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HATU, 1.70 g, 4.47 mmol) and triethylamine (1.00 mL, 7.17 mmol) in N,N-dimethylformamide (15 mL) was added (5-fluoropyridin-3-yl)methanamine (0.55 g, 4.36 mmol). The reaction mixture was stirred at ambient temperature for 20 h, diluted with ethyl acetate (200 mL) and washed with water and brine. The organic solution was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in vacuo and the residue was recrystallized from ethyl acetate to afford the title compound as a white powder in 47% yield (0.65 g): mp 144-145° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.53 (J=6.0 Hz, 1H), 8.43-8.38 (m, 2H), 7.59-7.56 (m, 1H), 4.39 (d, J=6.0 Hz, 2H), 4.00-3.95 (m, 2H), 3.64-3.59 (m, 2H), 3.06 (d, J=6.0 Hz, 2H), 2.44 (s, 3H), 0.95-0.87 (m, 1H), 0.48-0.42 (m, 2H), 0.20-0.16 (m, 2H); 13C NMR (75 MHz, DMSO-d6) δ 162.4, 161.1, 157.9, 155.2, 145.5, 137.9, 136.6, 122.5, 122.3, 117.6, 48.2, 42.5, 42.3, 40.8, 17.6, 9.3, 3.6; MS (ES+) m/z 389.9 (M+1).

reactant | 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | 3.55 mmol, 1.00 g | C1(CC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C12H15N3O3S
reactant | 2-(7-aza-1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 4.47 mmol, 1.70 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | triethylamine | 7.17 mmol, 1.00 mL | C(C)N(CC)CC | C6H15N
reactant | (5-fluoropyridin-3-yl)methanamine | 4.36 mmol, 0.55 g | FC=1C=C(C=NC1)CN | C6H7FN2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 2-(3-(cyclopropylmethyl)-2-oxoimidazolidin-1-yl)-N-((5-fluoropyridin-3-yl)methyl)-4-methylthiazole-5-carboxamide | 47% yield | C1(CC1)CN1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC=1C=NC=C(C1)F)=O | C18H20FN5O2S
